US07901594B2
Dimethyl 1,4,6,8,9,10,11,13-octapropylpentacene-2,3-dicarboxylate
Chloranil (0.054 g, 0.22 mmol) was added to a solution of dimethyl 5,14-dihydro-1,4,6,8,9,10,11,13-octapropylpentacene-2,3-dicarboxylate (0.147 g, 0.2 mmol) obtained in REFERENCE EXAMPLE 6 in benzene (5 ml). The mixture was then refluxed for 24 hours. After concentration, chloroform was added to the residue followed by filtration. After concentration, the concentrate was recrystallized from benzene to give 0.048 g of the title compound as a blue solid. The isolation yield was 33%.

reactant | Chloranil | 0.22 mmol, 0.054 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | dimethyl 5,14-dihydro-1,4,6,8,9,10,11,13-octapropylpentacene-2,3-dicarboxylate | 0.2 mmol, 0.147 g | C(CC)C1=C(C(=C(C=2CC3=C(C4=CC5=C(C(=C(C(=C5C=C4C(=C3CC12)CCC)CCC)CCC)CCC)CCC)CCC)CCC)C(=O)OC)C(=O)OC | C50H68O4
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | Dimethyl 1,4,6,8,9,10,11,13-octapropylpentacene-2,3-dicarboxylate | 0.048 g, yield was 33% | C(CC)C1=C(C(=C(C2=CC3=C(C4=CC5=C(C(=C(C(=C5C=C4C(=C3C=C12)CCC)CCC)CCC)CCC)CCC)CCC)CCC)C(=O)OC)C(=O)OC | C50H66O4
